US09145409B2
Step 1: (S)-3,5-dichloro-4-(2-(4-(difluoromethoxy)-3-hydroxyphenyl)-2-hydroxyethyl)pyridine 1-oxide (I-1/I)
(S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (5 g, 11.90 mmol) was added to 100 mL of 37% HCl and stirred at room temperature for about 3 min., to obtain a yellow solution. After stirring for further 3 min. the solution was poured into a solution of NaOH (48 g) in water (500 mL). The red solution was added with 1 M HCl to pH 1. The brown solid was filtered, washed with water and triturated with hot EtOH (50 mL). After stirring at r.t. for 1 h the solid was filtered, washed with EtOH and dried under vacuum at 40 C yielding 2.4 of the title compound.

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 11.90 mmol, 5 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | HCl | 100 mL | Cl | ClH
reactant | NaOH | 48 g | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | water | 500 mL | O | H2O
product | (S)-3,5-dichloro-4-(2-(4-(difluoromethoxy)-3-hydroxyphenyl)-2-hydroxyethyl)pyridine 1-oxide | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)O)Cl)[O-] | C14H11Cl2F2NO4
